US07199244B2
Step c—Preparation of trifluoro-methanesulfonic acid 5-azido-5,6,7,8-tetrahydro-naphthalen-2-yl ester
To a solution of trifluoro-methanesulfonic acid 5-hydroxy-5,6,7,8-tetrahydro-naphthalen-2-yl ester (11.2 g, 37.9 mmol, 1.0 eq) in THF (150 mL) at RT was added DPPA (Aldrich, 11.1 mL, 51.6 mmol, 1.36 eq). The resulting mixture was cooled to 0° C., then DBU (Aldrich, 7.7 mL, 51.6 mmol, 1.36 eq) was added slowly through a syringe. The reaction was warmed to RT and stirred over the weekend. The mixture was concentrated in vacuo. The residue was dissolved in EtOAc (400 mL), washed with saturated NH4Cl (twice), water, and brine, dried over Na2SO4, and concentrated in vacuo. The crude was purified by flash chromatography (5% EtOAc-hexane) to provide the title compound.

reactant | trifluoro-methanesulfonic acid 5-hydroxy-5,6,7,8-tetrahydro-naphthalen-2-yl ester | 37.9 mmol, 11.2 g, 1.0 eq | OC1C=2C=CC(=CC2CCC1)OS(=O)(=O)C(F)(F)F | C11H11F3O4S
reactant | DPPA | 51.6 mmol, 11.1 mL, 1.36 eq | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 51.6 mmol, 7.7 mL, 1.36 eq | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | trifluoro-methanesulfonic acid 5-azido-5,6,7,8-tetrahydro-naphthalen-2-yl ester | N(=[N+]=[N-])C1C=2C=CC(=CC2CCC1)OS(=O)(=O)C(F)(F)F | C11H10F3N3O3S
